US05019613
2,4,6-Tris(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yloxy)-1,3,5-triazine
The title compound is prepared by the reaction of 4-hydroxy-1-methoxy-2,2,6,6-tetramethylpiperidine, sodium hydride, and cyanuric chloride in 1,4-dioxane solvent.

reactant | 4-hydroxy-1-methoxy-2,2,6,6-tetramethylpiperidine | OC1CC(N(C(C1)(C)C)OC)(C)C | C10H21NO2
reactant | sodium hydride | [H-].[Na+]
reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 2,4,6-Tris(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yloxy)-1,3,5-triazine | CON1C(CC(CC1(C)C)OC1=NC(=NC(=N1)OC1CC(N(C(C1)(C)C)OC)(C)C)OC1CC(N(C(C1)(C)C)OC)(C)C)(C)C | C33H60N6O6
